US07713982B2
b) 3-butyl-8-chloro-3,7-dihydro-1H-purine-2,6-dione
A solution of 3-butyl-8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (100 mg, 0.35 mmol) in anhydrous THF (4 ml) and anhydrous DMSO (0.4 ml) was treated with Pd(PPh3)4 (61 mg, 0.053 mmol). The mixture was degassed under gentle vacuum, morpholine (308 uL, 3.5 mmol) was added, and left to stir at rt under nitrogen for 4 hours. The yellow 10 solution was partitioned between 2M HCl(aq) and EtOAc. The organic layer was separated, washed with brine, dried (MgSO4) and concentrated. The residue was taken up in MeOH and passed down an amino-propyl SPE (5 g), eluting with MeOH followed by 5% AcOH/MeOH. The product fractions were combined and concentrated in vacuo to afford the title compound as an off white solid (30 mg, 35%). NMR; δH (400 MHz, d6-DMSO) 0.89 (t, 3H, J=7.5 Hz), 1.23-1.34 (m, 2H), 1.55-1.65 (m, 2H), 3.85 (t, 2H, J=7 Hz), 11.17 (s, 1H), 14.37 (br.s, 1H); m/z 243.3 [MH+].

reactant | 3-butyl-8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 0.35 mmol, 100 mg | C(CCC)N1C(NC(C=2N(C(=NC12)Cl)CC=C)=O)=O | C12H15ClN4O2
reactant | morpholine | 3.5 mmol, 308 uL | N1CCOCC1 | C4H9NO
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | DMSO | 0.4 ml | CS(=O)C | C2H6OS
catalyst | Pd(PPh3)4 | 0.053 mmol, 61 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-butyl-8-chloro-3,7-dihydro-1H-purine-2,6-dione | C(CCC)N1C(NC(C=2NC(=NC12)Cl)=O)=O | C9H11ClN4O2
